US07223788B2
4-(4-Chlorophenyl)piperidine-1-carboxylic acid (4-(R)-{3-[methyl-(2-oxo-thiazolidine-4-carbonyl)amino]pyrrolidin-1-yl}phenyl)amide
(R)-4-(4-Chlorophenyl)piperidin-1-carboxylic acid [4-(3-methylamino-pyrrolidin-1-yl)phenyl]amide was reacted with 2-oxothiazolidine-4-carboxylic acid by method E. This resulted in the product with the molecular weight of 542.10 (C27H32ClN5O3S); MS (ESI): 542 (M+H+).

reactant | (R)-4-(4-Chlorophenyl)piperidin-1-carboxylic acid [4-(3-methylamino-pyrrolidin-1-yl)phenyl]amide | CN[C@H]1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl | C23H29ClN4O
reactant | 2-oxothiazolidine-4-carboxylic acid | O=C1SCC(N1)C(=O)O | C4H5NO3S
product | 4-(4-Chlorophenyl)piperidine-1-carboxylic acid (4-(R)-{3-[methyl-(2-oxo-thiazolidine-4-carbonyl)amino]pyrrolidin-1-yl}phenyl)amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(=O)[C@H]1NC(SC1)=O | C27H32ClN5O3S
